US07855206B2
To a vigorously stirred suspension of (2R,3S)-5-methylene-3-nitro-2-(2,4,5-trifluorophenyl)tetrahydro-2H-pyran (200 mg, 0.73 mmol) and zinc powder (561 mg, 8.59 mmol) in ethanol (7 mL) was added 6N hydrochloric acid (2.3 mL, 14 mmol). After one hour, the mixture was treated with ether (100 mL) and aqueous sodium hydroxide solution (2.5N, 40 mL). The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate and evaporated to yield (2R,3S)-5-methylene-2-(2,4,5-trifluorophenyl)tetrahydro-2H-pyran-3-amine which was used in the next step without further purification.

reactant | (2R,3S)-5-methylene-3-nitro-2-(2,4,5-trifluorophenyl)tetrahydro-2H-pyran | 0.73 mmol, 200 mg | C=C1C[C@@H]([C@H](OC1)C1=C(C=C(C(=C1)F)F)F)[N+](=O)[O-] | C12H10F3NO3
reactant | hydrochloric acid | 14 mmol, 6N, 2.3 mL | Cl | ClH
reactant | ether | 100 mL | CCOCC | C4H10O
reactant | sodium hydroxide | 2.5N, 40 mL | [OH-].[Na+]
solvent | ethanol | 7 mL | C(C)O | C2H6O
catalyst | zinc | 8.59 mmol, 561 mg | [Zn] | Zn
product | (2R,3S)-5-methylene-2-(2,4,5-trifluorophenyl)tetrahydro-2H-pyran-3-amine | C=C1C[C@@H]([C@H](OC1)C1=C(C=C(C(=C1)F)F)F)N | C12H12F3NO
